* \\vmware-host\Shared Folders\Documents\DEV\sck-adc\simetrix files\5.60\LT1800\zuyev_1.4_LT1800 - voltage swing.sxsch
*#SIMETRIX
X1 Vbias R7_P Vdd Vss X1_out LT1800 pinnames: inp inn vsp vsn out
V1 Vdd 0 5
V2 Vss 0 0
V3 Vin 0 PULSE 1.5 3.5 0 100u 100u 0 200u
V4 Vbias 0 2.5
R7 R7_P Vin 1K
R8 X1_out R7_P 20k
RL X1_out 0 200
.GRAPH RL#P axisType="auto" persistence=-1 curveLabel="I(RL)" analysis="tran|ac|dc" xLog="auto" yLog="lin"  nowarn=true disabled=false 
.GRAPH Vin axisType="grid" axisName="Linear output range" persistence=-1 curveLabel="Vin" analysis="tran|ac|dc" xLog="auto" yLog="auto"  nowarn=true disabled=false 
.GRAPH X1_out axisType="grid" axisName="Linear output range" persistence=-1 curveLabel="VOut" analysis="tran|ac|dc" xLog="auto" yLog="auto"  nowarn=true disabled=false 
.GRAPH Vdd axisType="grid" axisName="Linear output range" persistence=-1 curveLabel="Vdd" analysis="tran|ac|dc" order="##" xLog="auto" yLog="auto"  nowarn=true disabled=false 
.GRAPH Vss axisType="grid" axisName="Linear output range" persistence=-1 curveLabel="Vss" analysis="tran|ac|dc" order="##" xLog="auto" yLog="auto"  nowarn=true disabled=false 
.TRAN 1m SWEEP DEVICE=RL LIST  100G 1k 250
.TEMP 25

